Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___.
 
Chief Complaint:
IDDM here for pancreas transplant

 
Major Surgical or Invasive Procedure:
___ pancreas transplant

 
History of Present Illness:
___ with IDDM c/b gastroparesis requiring multiple 
hospitalizations presents for elective pancreas transplant.  He 
reports no recent fever, chills, chest pain, dyspnea, diarrhea, 
melena, cough, sputum production, or rash.  He
was recently admitted for nausea/vomiting and abdominal pain 
related to his gastroparesis.  Pt reports that he has occurences 
of nausea and abdominal pain related to his gastroparesis 
usually every other week.  

 
Past Medical History:
PMH: hepatitis C, IDDM, gastroparesis, peripheral neuropathy,
glaucoma, seizures

PSH: Right knee surgery

 
Social History:
___
Family History:
NC
 
Physical Exam:
PE: T 98.1  P ___  BP 118/79  R 18  SaO2 95% on room air
Gen: no distress, alert and oriented x 3, multiple tattooes
HEENT: NC/AT, PERLA, EOMI, mucus membranes moist, anicteric
Neck: supple, no LAD
Chest: lungs clear bilaterally
Heart: RRR, no M/R/G
Abd: soft, nontender, nondistended
Ext: no edema, warm, palpable ___ bilaterally

 
Pertinent Results:
At Admission: ___ 
WBC-6.8 RBC-3.50* Hgb-11.6* Hct-32.8* MCV-94 MCH-33.2* 
MCHC-35.5* RDW-14.8 Plt ___ PTT-25.7 ___
Glucose-106* UreaN-19 Creat-0.6 Na-144 K-4.1 Cl-107 HCO3-29 
AnGap-12
ALT-14 AST-14 LD(LDH)-171 AlkPhos-89 Amylase-36 TotBili-0.4
Lipase-12 Albumin-4.2 Calcium-8.9 Phos-4.7* Mg-1.9 Cholest-157
___ HbA1c-6.8*
At Discharge: 
WBC-9.9# RBC-3.19* Hgb-10.4* Hct-29.7* MCV-93 MCH-32.7* 
MCHC-35.1* RDW-14.2 Plt ___
Glucose-113* UreaN-13 Creat-0.7 Na-137 K-3.9 Cl-104 HCO3-23 
AnGap-14
Amylase-45 Lipase-48
Calcium-8.6 Phos-3.3 Mg-1.6
tacroFK-18.___ Pt admitted to the surgical sevice for Pancreatic 
transplant for IDDM.  Renal transplant consult called. Post 
operativeley pt kept NPO/IVF with q hourly glucose moitoring. 
Immunosuppresion with ATG ( 5 doses total with last dose split 
due to neutropenia), SM, MMF started. Pain control with PCa , 
BZD. ___ u/s showed no evidence of DVT.
___ NGt to suction, q 2 hr gluc checks, ASA started and 
Heparin GTT started for thrombosis prevention. US: limited study 
but nl vasc to head of panc, good arterial and venous flow  
___ Marinol added for pain control.  Pancreatic enzymes 
trended down.  NGT removed
___ foley dc'd.Advanced diet to clears,Social work consult. 
___ diet advanced to solids. Heparin GTT stopped.  ATG help for 
neutropenia.  Po pain managment, Nausea due to chronic 
gastropresis.  
___.  NGT replaced due to nausea, with large output from 
ngt.  KUB performed.  
___: Advanced to sips. Sm and MMF for immunosuppression. 
___ Clear diet,  advanced to regular diet still with some 
nausea secondary to gastroparesis.  
___: pt discharged to home, VSS, tolerating a regular diet, with 
mild nausea.  Pain controlled on PO pain meds with BS<140s.
 
Medications on Admission:
 axert 12.5mg prn, valium 10mg qid, cymbalta 90mg daily,
fentanyl 50mcg patch q72, neurontin 600mg tid, vicodin prn,
novolog sliding scale, lantus 44units qhs, reglan 20mg qid,
zegerid 40/1680mg tid, zoloft 75mg daily, sucralfate 1g tid,
topamax prn

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
5. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
7. Diazepam 10 mg Tablet Sig: One (1) Tablet PO QID (4 times a 
day).  
8. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day).
Disp:*300 ml* Refills:*2*
9. Valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day).  
12. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*70 Tablet(s)* Refills:*0*
13. Dronabinol 2.5 mg Capsule Sig: Two (2) Capsule PO Q 8H 
(Every 8 Hours).
Disp:*42 Capsule(s)* Refills:*0*
14. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO twice a day: 
Total 6 mg BID. 
15. Tacrolimus 5 mg Capsule Sig: One (1) Capsule PO twice a day: 
Total 6 mg BID.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pancreas transplant
gastroparesis

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call the Transplant Office ___ if fever, chills, 
nausea/vomiting, inability to take any of your medications, 
diarrhea, worsening abdominal pain, glucose of 200 or greater or 
incision redness/bleeding/drainage. 
___ shower, but do not tub bathe, swim, soak, or scrub incision 
for 2 weeks.  
No driving or alcohol while taking pain medications.  
Labs ___ at ___
 
Followup Instructions:
___